US04426386
3-(3-methylphenyl)-pyridine was prepared from 81.5 g (0.52 mol) 3-bromopyridine and 120 g (0.70 mol) 3-bromotoluene as described for the preparation of 3-(3-methoxyphenyl)-pyridine. (Example I7). B.p. 87°/0.05 mmHg. Yield 61.7 g (69%).

reactant | 3-bromopyridine | 0.52 mol, 81.5 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 3-bromotoluene | 0.70 mol, 120 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | 3-(3-methoxyphenyl)-pyridine | COC=1C=C(C=CC1)C=1C=NC=CC1 | C12H11NO
product | 3-(3-methylphenyl)-pyridine | CC=1C=C(C=CC1)C=1C=NC=CC1 | C12H11N
